US06720338B2
4′-methyl(1,1′-biphenyl)-4-carboxylic acid
A room temperature solution of ethyl 4-bromobenzoate (0.70 mL, 4.3 mmol) in DME (20 mL) was treated with Pd(PPh3)4 (246 mg, 0.2 mmol), stirred for 5 minutes, treated with a solution of 4-methylphenylboronic acid (870 mg, 6.4 mmol) in ethanol (10 mL), stirred for 5 minutes, treated with 2M Na2CO3 (18.0 mL, 36.0 mmol), heated to reflux, stirred for 16 hours, and concentrated. The concentrate was dissolved in water (75 mL) and diethyl ether (50 mL), filtered through celite, and extracted with diethyl ether. The combined extracts were washed with brine, dried (MgSO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 33% acetone/hexanes. The resulting product was dissolved in methanol (10 mL) and THF (5 mL), treated with 1M NaOH (4.3 mL, 4.3 mmol), stirred for 48 hours, concentrated, dissolved in water (10 mL), adjusted to pH 1 with 12M HCl, and filtered. Recrystallization from ethyl acetate provided the desired product. MS (APCI(+)) m/e 213 (M+H)+.

reactant | ethyl 4-bromobenzoate | 4.3 mmol, 0.70 mL | BrC1=CC=C(C(=O)OCC)C=C1 | C9H9BrO2
reactant | 4-methylphenylboronic acid | 6.4 mmol, 870 mg | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | Na2CO3 | 36.0 mmol, 2M, 18.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaOH | 4.3 mmol, 1M, 4.3 mL | [OH-].[Na+]
solvent | DME | 20 mL | COCCOC | C4H10O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.2 mmol, 246 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-methyl(1,1′-biphenyl)-4-carboxylic acid | CC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C14H12O2
